US09328099B2
Step C. 1-[1-(tert-Butoxycarbonyl)-4-(cyanomethyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxylic acid
To a solution of tert-butyl 4-(cyanomethyl)-4-[4-(methoxycarbonyl)-3-(phenylamino)-1H-pyrazol-1-yl]piperidine-1-carboxylate (0.12 g, 0.27 mmol) in THF (1.8 mL) was added MeOH (1 mL), and 1M aqueous NaOH (0.82 mL, 0.82 mmol). The mixture was heated to 50° C. for 2 hours. The mixture was then cooled to ambient temperature and acidified to pH 3-4 with 1N aqueous HCl. The mixture was extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-10% MeOH/DCM) to afford the title compound.

reactant | tert-butyl 4-(cyanomethyl)-4-[4-(methoxycarbonyl)-3-(phenylamino)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.27 mmol, 0.12 g | C(#N)CC1(CCN(CC1)C(=O)OC(C)(C)C)N1N=C(C(=C1)C(=O)OC)NC1=CC=CC=C1 | C23H29N5O4
reactant | MeOH | 1 mL | CO | CH4O
reactant | NaOH | 0.82 mmol, 1M, 0.82 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
product | 1-[1-(tert-Butoxycarbonyl)-4-(cyanomethyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC#N)N1N=C(C(=C1)C(=O)O)NC1=CC=CC=C1 | C22H27N5O4
